US06328965B1
The formulations of SLP in an emulsion of squalane in water, soybean oil in water and hexadecane in water were prepared according to the method described in Example 1.

reactant | squalane | CC(C)CCCC(C)CCCC(C)CCCCC(C)CCCC(C)CCCC(C)C | C30H62
solvent | water | O | H2O
product | hexadecane | CCCCCCCCCCCCCCCC | C16H34
